US05847122
(2S,3S)-3-(2-Aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-phenylpropionamide (582 mg) is mixed with chlorobenzene (10 ml), and the mixture is refluxed for 25 hours during which thereto is added p-toluenesulfonic acid monohydrate (112 mg) in 8 portions (14 mg×8) at intervals of three hours. The reaction mixture is cooled to room temperature, and concentrated under reduced pressure to remove the chlorobenzene. To the residue is added methanol (5 ml), and the mixture is refluxed for one hour. The mixture is allowed to cool to room temperature, and stirred to crystallization, and then cooled with ice. The precipitated crystals are collected by filtration, washed with chilled methanol, and dried at 50° C. to give (2S,3S)-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one (243 mg).

reactant | (2S,3S)-3-(2-Aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-phenylpropionamide | 582 mg | NC1=C(C=CC=C1)S[C@H]([C@H](C(=O)NC1=CC=CC=C1)O)C1=CC=C(C=C1)OC | C22H22N2O3S
reactant | p-toluenesulfonic acid monohydrate | 112 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
product | (2S,3S)-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one | 243 mg | O[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)OC | C16H15NO3S
